US04628057
Isopropyl (3S)-2-[(4-chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate
(3S)-2-[(4-Chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (2.08 g) is suspended in isopropyl alcohol (30 ml) and thereto is added dropwise thionyl chloride (0.47 ml) at -20° C. The mixture is stirred at room temperature for 17 hours and then refluxed at 90° C. for 4 hours. After distilling off the solvent, the residue is dissolved in ethyl acetate. The solution is washed with water, dried and distilled to remove the solvent. The residue is recrystallized from ethyl acetate-n-hexane to give the title compound (477 mg), m.p. 178°-180° C. (decomp.).

reactant | (3S)-2-[(4-Chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.08 g | ClC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3C[C@H]2C(=O)O)C=C1 | C20H17ClN2O2S2
reactant | thionyl chloride | 0.47 ml | S(=O)(Cl)Cl | Cl2OS
reactant | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | Isopropyl (3S)-2-[(4-chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 477 mg | ClC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3C[C@H]2C(=O)OC(C)C)C=C1 | C23H23ClN2O2S2
